datasets/10k__Tet_Int.csv
SMILES Labelled
"CCC1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)[H].[O-:21]C1=CC=CC=C1>>CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)[H] 21=20;20,10=10"
"[H][S+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S]C(C)C(CC)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[S]C(C)C(CC)[S]1 10=20;20,21=21"
"[H][O:10][C:20]([O-:21])(OC)OC1=CC=CC=C1>>[O:21]=[C:20](OC)OC1=CC=CC=C1.[O-:10][H] 21=20;20,10=10"
"[O:10]([K])C(CC)/C([H])=C([C:20](OCC)=[O:21])/[H]>>[O-:21][C:20]1(OCC)[O+:10]([K])C(CC)C([H])=C1[H] 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C(CC)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C(CC)[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"CCC1C(O[C:20](=[O:10])N1[H])CCCCCC.[O-:21]CCCCCC>>CCC1C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)CCCCCC 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)C.[O-:21]CC>>[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)C1=CC=CC=C1)C 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)CC)[O-:10])C>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)CC)C 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OC)[H])CC>>C(C([O-:21])C)(C(O[C:20](=[O:10])OC)[H])CC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C(C)C([H])[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C([H])[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C)([O-:10])[Cl:21])C1=CC=CC=C1)[H]>>[H]C1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)[H].[Cl-:21] 10=20;20,21=21"
"[H][O:10]C([H])C([H])C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)[H])C)[O-:10])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)[H])C)[H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH]([H])[NH]1 10=20;20,21=21"
"[O:10]([Na])C(CC)C(C)C([C:20]([H])=[O:21])C>>[O-:21][C:20]1([H])[O+:10]([Na])C(CC)C(C)C1C 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)CCCCCC)CC>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CC.[O-:21]CCCCCC 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCCCCCC)CC)CC>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCCCCCC)CC)CC 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[NH]C(CC)C(C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(CC)C(C)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H][S:10]C(CC)C(C)C(C)[S][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(C)[S]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"[H][NH:10]C(C)C([H])C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C([H])[O]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C([H])[O][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]([NH:21]CC)([O]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[NH:10][H].CC[NH+:21]=[C:20]([O]CC)[NH]C7=CC=CC=C7 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"[H][O:10]C([H])C(C)C(C)[O][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C)[O]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"[H][O:10]C(CC)C(CC)[NH][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(CC)[NH]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)CCCCCC)CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)CCCCCC)[O-:10])CC 21=20;20,10=10"
"[O-:10]C(CCC)C([H])C(O)C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C(O)C([H])C(CCC)[O:10]1 10=20;20,21=21"
"[O-:21][C:20]1(C)[O:10]C([H])C(C)N1[H]>>[O-:10]C([H])C(C)N([C:20](C)=[O:21])[H] 21=20;20,10=10"
"CC1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)C)C>>CC1C(C(O[C:20](=[O:10])N1C)C)C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
